US06809199B2
Step I: 7-Bromo-1-(2,6-dichlorophenyl)-5-(2,4-difluorophenyl)-1,6-naphthyridin-2(1H)-one
To a refluxing solution of 7-bromo-1-(2,6-dichlorophenyl)-5-(2,4-difluorophenyl)-3,4-dihydro-1,6-naphthyridin-2(1H)-one (0.747 g) and AIBN (0.03 g) in 30 mL of CCl4 was added recrystallized N-bromosuccinimide (0.302 g). The reaction was stirred at reflux for 1 h, then removed from the heat. DBU (0.23 mL) was added and the mixture was stirred at rt for 15 min. The reaction mixture was washed with 100 mL of saturated sodium bicarbonate and back extracted with 50 mL of dichloromethane. The combined organics were washed with 100 mL of brine, dried with sodium sulfate, and concentrated to give the desired product. Mass spectrum m/z (ESI) 481.3 (M+1).

reactant | 7-bromo-1-(2,6-dichlorophenyl)-5-(2,4-difluorophenyl)-3,4-dihydro-1,6-naphthyridin-2(1H)-one | 0.747 g | BrC1=NC(=C2CCC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=C(C=C1)F)F | C20H11BrCl2F2N2O
reactant | AIBN | 0.03 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromo-1-(2,6-dichlorophenyl)-5-(2,4-difluorophenyl)-1,6-naphthyridin-2(1H)-one | BrC1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=C(C=C1)F)F | C20H9BrCl2F2N2O
